US06582351B1
To a solution of 2-chloro-3-nitro-5-(trifluoromethyl)pyridine (1 g) in N,N-dimethylformamide (10 mL) was added 2-amino-2-methyl-1-propanol (1.18 g) at 0° C. The mixture was stirred at room temperature for 3.5 hours under nitrogen atmosphere. The mixture was diluted with ethyl acetate and washed successively with water and brine. The organic layer was dried over anhydrous magnesium sulfate and concentrated in vacuo to give 2-(1,1-dimethyl-2-hydroxyethylamino)-3-nitro-5-(trifluoromethyl)pyridine (1.23 g) as a yellow oil.

reactant | 2-chloro-3-nitro-5-(trifluoromethyl)pyridine | 1 g | ClC1=NC=C(C=C1[N+](=O)[O-])C(F)(F)F | C6H2ClF3N2O2
reactant | 2-amino-2-methyl-1-propanol | 1.18 g | NC(CO)(C)C | C4H11NO
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(1,1-dimethyl-2-hydroxyethylamino)-3-nitro-5-(trifluoromethyl)pyridine | 1.23 g | CC(CO)(C)NC1=NC=C(C=C1[N+](=O)[O-])C(F)(F)F | C10H12F3N3O3
